US08003658B2
Preparation of (1R)—N-(1-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-(2-methoxy-ethoxy)-quinazolin-6-ylcarbamoyl}-ethyl)-acrylamide
75 μl of acrylic acid was dissolved in 4 ml of THF, and cooled to 0° C. 180 μl of pyridine and 520 ml of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were added thereto, the resulting solution was reacted with 284 mg of 2-amino-N-[4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-(2-methoxy-ethoxy)-quinazolin-6-yl]-propionamide dissolved in 4 ml of THF as a starting material for 30 mins, and then stirred for 3 hours while heating to room temperature. The reacted solution was washed with saturated sodium bicarbonate solution, extracted with a mixture of chloroform and methanol, dried over sodium sulfate, filtered and distilled under a reduced pressure, and the resulting residue was subjected to column chromatography (eluent-chloroform:methanol=15:1) to obtain the title compound (87 mg, 28%).

reactant | acrylic acid | 75 μl | C(C=C)(=O)O | C3H4O2
reactant | pyridine | 180 μl | N1=CC=CC=C1 | C5H5N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 520 ml | Cl.CN(CCCN=C=NCC)C
reactant | 2-amino-N-[4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-(2-methoxy-ethoxy)-quinazolin-6-yl]-propionamide | 284 mg | NC(C(=O)NC=1C=C2C(=NC=NC2=CC1OCCOC)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl)C | C26H27ClN6O4
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (1R)—N-(1-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-(2-methoxy-ethoxy)-quinazolin-6-ylcarbamoyl}-ethyl)-acrylamide | 87 mg, 28% | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)NC(=O)[C@@H](C)NC(C=C)=O)OCCOC | C29H29ClN6O5
